US07829588B2
(2-Heptyloxy-4-iodophenyl)methanol
87.5 ml of a solution of diisobutylaluminum hydride (DiBAlH) is added at 0° C. to a solution of methyl 2-heptyloxy-4-iodobenzene (14 g, 43.7 mmol) previously obtained, in toluene (450 ml). The solution is stirred for 2 hours at 0° C., and then a saturated solution of mixed tartrate of sodium and potassium is added.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-heptyloxy-4-iodobenzene | 43.7 mmol, 14 g | CC1=C(C=C(C=C1)I)OCCCCCCC | C14H21IO
reactant | tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-]
reactant | sodium | [Na] | Na
reactant | potassium | [K] | K
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Heptyloxy-4-iodophenyl)methanol | C(CCCCCC)OC1=C(C=CC(=C1)I)CO | C14H21IO2
